US05834501
2-(3-Hydroxypropyl)-3H-imidazo[5,4-b]pyridine
0.83 g of 4-hydroxybutyric acid (prepared as described in Preparation 32) was added to 0.77 g of 2,3-diaminopyridine, and the resulting mixture was stirred at 150° C. for 4 hours. At the end of this time, the reaction mixture was treated with 3N aqueous hydrochloric acid and subsequently made alkaline by the addition of aqueous ammonia. The aqueous mixture was evaporated to dryness under reduced pressure, and then the resulting residue was purified by column chromatography through silica gel, using a 5:1 by volume mixture of-ethyl acetate and methanol as the eluent. The product was crystallized by trituration with ethyl acetate, to give 0.83 g of the title compound, melting at 151°-153° C.

reactant | 4-hydroxybutyric acid | 0.83 g | OCCCC(=O)O | C4H8O3
reactant | 2,3-diaminopyridine | 0.77 g | NC1=NC=CC=C1N | C5H7N3
reactant | hydrochloric acid | 3N | Cl | ClH
reactant | ammonia | N | H3N
product | 2-(3-Hydroxypropyl)-3H-imidazo[5,4-b]pyridine | 0.83 g | OCCCC=1NC2=NC=CC=C2N1 | C9H11N3O
